US04686227
Ethanol (50 ml) was added to a mixture of 7-chloro-2-methyl-3-trimethylammoniomethylimidazo[2,1-a]isoquinoline methylsulfate (2.3 g) and imidazole (0.95 g) in dimethyl sulfoxide (20 ml) and heated at 100° C. with stirring for 5 hours. After the removal of ethanol by distillation, the residue was poured into water. The resulting precipitates were collected by filtration, dried and recrystallized from ethyl acetate. The obtained crystals were chromatographed on silica gel (16 g) with a mixture of chloroform and methanol (10:1) as an eluent. The eluates were evaporated in vacuo and the residual solid was recrystallized from ethyl acetate to give 7-chloro-3-(1-imidazolylmethyl)-2-methylimidazo[2,1-a]isoquinoline (0.7 g).

reactant | Ethanol | 50 ml | C(C)O | C2H6O
reactant | 7-chloro-2-methyl-3-trimethylammoniomethylimidazo[2,1-a]isoquinoline methylsulfate | 2.3 g | COS(=O)(=O)[O-].ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3C[N+](C)(C)C)C
reactant | imidazole | 0.95 g | N1C=NC=C1 | C3H4N2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 7-chloro-3-(1-imidazolylmethyl)-2-methylimidazo[2,1-a]isoquinoline | 0.7 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3CC=3NC=CN3)C | C16H13ClN4
